US07410972B2
b) 5-Chloro-N-[6-chloro-3-(2-furanylmethoxy)-2-pyrazinyl]-2-thiophenesulphonamide
Sodium hydride (0.04 g of a 60% dispersion in oil) was added to furfurylalcohol (0.034 g) in 1,2-dimethoxyethane (1.0 mL). After 5 minutes 5-chloro-N-(3-bromo-6-chloro-2-pyrazinyl)-2-thiophenesulphonamide (0.1 g) was added and the mixture heated at 40° C. After 16 h, 5% aqueous citric acid (5.0 mL) was added and the mixture extracted with ethyl acetate (2×20 mL). The combined extracts were washed with brine, dried (MgSO4) and the solvent evaporated. Chromatography on silica gel eluting with dichloromethane gave the title compound as a white solid (0.03 g).

reactant | Sodium hydride | [H-].[Na+]
reactant | furfurylalcohol | 0.034 g | C(C1=CC=CO1)O | C5H6O2
reactant | 5-chloro-N-(3-bromo-6-chloro-2-pyrazinyl)-2-thiophenesulphonamide | 0.1 g | ClC1=CC=C(S1)S(=O)(=O)NC1=NC(=CN=C1Br)Cl | C8H4BrCl2N3O2S2
reactant | citric acid | 5.0 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | 1,2-dimethoxyethane | 1.0 mL | COCCOC | C4H10O2
product | 5-Chloro-N-[6-chloro-3-(2-furanylmethoxy)-2-pyrazinyl]-2-thiophenesulphonamide | 0.03 g | ClC1=CC=C(S1)S(=O)(=O)NC1=NC(=CN=C1OCC=1OC=CC1)Cl | C13H9Cl2N3O4S2
